US04859683
To a solution of 3.6 g (16.4 mmol) of 2,2-dimethyl-2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylic acid in 20 ml of DMF is added 2.6 g (19.7 mmol) of N-chlorosuccinimide in one portion at room temperature. The resulting solution is stirred for 31/2 days. The reaction mixture is then diluted with ethyl acetate washed with water, and the organic layer is dried (MgSO4), filtered and concentrated to obtain 2,2-dimethyl-7-chloro-2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylic acid.

reactant | 2,2-dimethyl-2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylic acid | 16.4 mmol, 3.6 g | CC1(OC2=C(CCC1)C=CC=C2C(=O)O)C | C13H16O3
reactant | N-chlorosuccinimide | 19.7 mmol, 2.6 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2-dimethyl-7-chloro-2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylic acid | CC1(OC2=C(CCC1)C=C(C=C2C(=O)O)Cl)C | C13H15ClO3
